US08043762B2
Synthesis of 2,5-dichloro-4′-(2-benzothiazolethioxy)benzophenone
A charge of 269.1 g (1.00 mol) of 2,5-dichloro-4′-fluorobenzophenone, 175.6 g (1.05 mol) of 2-benzothiazolethiol, 152.0 g (1.10 mol) of potassium carbonate and 1.5 L of dehydrated N,N′-dimethylacetamide was weighed into a 3 L three-neck flask equipped with a stirrer, a thermometer, a cooling tube and a nitrogen gas introducing tube. The reaction solution was heated under nitrogen atmosphere to 110° C. for 2 hours using an oil bath. After the disappearance of raw materials was confirmed by thin layer chromatography, the reaction solution was left to cool to room temperature. The reaction solution was then gradually added to 3 L of water to coagulate a product, which was filtered. The product obtained by filtration was dissolved in 4 L of toluene. The organic layer was washed with brine until an aqueous layer became neutral. After the organic layer was dried over magnesium sulfate, the solvent was removed by an evaporator. A crude yield was 350.3 g. A 1.5 L aliquot of toluene heated to 80° C. was used for recrystallization to yield 325.4 g (0.782 mol) of a purified product in 78.2% yield.

reactant | 2,5-dichloro-4′-fluorobenzophenone | 1.00 mol, 269.1 g | ClC1=C(C(=O)C2=CC=C(C=C2)F)C=C(C=C1)Cl | C13H7Cl2FO
reactant | 2-benzothiazolethiol | 1.05 mol, 175.6 g | S1C(=NC2=C1C=CC=C2)S | C7H5NS2
reactant | potassium carbonate | 1.10 mol, 152.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 L | O | H2O
solvent | toluene | 4 L | C1(=CC=CC=C1)C | C7H8
product | 2,5-dichloro-4′-(2-benzothiazolethioxy)benzophenone | 0.782 mol, 325.4 g, 78.2% yield | ClC1=C(C(=O)C2=CC=C(C=C2)SC=2SC3=C(N2)C=CC=C3)C=C(C=C1)Cl | C20H11Cl2NOS2
